US08193187B2
8-(5-Fluoro-2-methylphenoxymethyl)-7-(4-hydroxy-2-methoxyphenyl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one (Reference Compound No. 14-1)
8-(5-Fluoro-2-methylphenoxymethyl)-7-(2-methoxy-4-methoxymethoxyphenyl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one (Reference Compound No. 8-1, 2.73 g, 5.52 mmol) was dissolved in a mixed solution of 1,4-dioxane (25 mL) and methanol (5 mL), and 4N hydrochloride/1,4-dioxane solution (7.0 mL, 28 mmol) was added thereto. After the reaction mixture was stirred at room temperature for 1 hour, the mixture was diluted with ethyl acetate (130 mL). The mixture was washed with aqueous sodium hydrogen carbonate solution (130 mL) and saturated brine (100 mL) successively, dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure to give the titled reference compound (2.41 g) as a pale yellow solid. (Yield 97%)

reactant | 8-(5-Fluoro-2-methylphenoxymethyl)-7-(2-methoxy-4-methoxymethoxyphenyl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one | 5.52 mmol, 2.73 g | FC=1C=CC(=C(OCC=2C(=CC=C3NC(C(N(C23)C)=O)(C)C)C2=C(C=C(C=C2)OCOC)OC)C1)C | C28H31FN2O5
reactant | hydrochloride 1,4-dioxane | 28 mmol, 4N, 7.0 mL | Cl.O1CCOCC1
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 5 mL | CO | CH4O
solvent | ethyl acetate | 130 mL | C(C)(=O)OCC | C4H8O2
product | 8-(5-Fluoro-2-methylphenoxymethyl)-7-(4-hydroxy-2-methoxyphenyl)-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one | 2.41 g, Yield 97% | FC=1C=CC(=C(OCC=2C(=CC=C3NC(C(N(C23)C)=O)(C)C)C2=C(C=C(C=C2)O)OC)C1)C | C26H27FN2O4
